US07943619B2
6-(5-Methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid isopropylamide
As described for example 50, 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid ethyl ester (100 mg, 0.29 mmol), instead of 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester, was converted, using isopropylamine instead of methylamine, to the title compound (19 mg, 18%) which was obtained as a white solid. MS: m/e=354.3 [M+H]+.

reactant | 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid ethyl ester | 0.29 mmol, 100 mg | C(C)OC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=NC=C1 | C17H16N4O4
reactant | 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F | C18H16FN3O4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 6-(5-Methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid isopropylamide | 19 mg, 18% | C(C)(C)NC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=NC=C1 | C18H19N5O3
